US07115600B2
2-[3-(4-Pyrrolidin-1-ylmethyl-phenyl)-cyclobutylmethoxy]-pyrimidine
To a stirring solution of [3-(4-pyrrolidin-1-ylmethyl-phenyl)-cyclobutyl]-methanol (38.0 mg, 0.16 mmol) prepared above (Step F) in 1.5 mL of THF was added 2-chloropyrimidine (21.3 mg, 0.19 mmol) followed by a solution of KotBu (310 uL, 0.31 mmol, 1 M THF). The reaction immediately turned to a dark pink/milky solution. When mass spectral analysis indicated complete consumption of starting alcohol (15 minutes) the reaction was quenched with an aqueous solution of NH4Cl. The reaction was diluted with a 3:1 mixture of chloroform/isopropyl alcohol. The layers were separated and the organic layer was dried over MgSO4, filtered through a fritted glass filter, and concentrated under reduced pressure to yield the title compound as a mixture of cis:trans isomers. Conversion to the HCl salt was accomplished by dissolving the free base in EtOAc, and then adding 1 eq of a solution of HCl (1 M THF). The colorless solid was collected and dried under reduced pressure to yield 45 mg of a colorless solid, and as a mixture of isomers.

reactant | [3-(4-pyrrolidin-1-ylmethyl-phenyl)-cyclobutyl]-methanol | 0.16 mmol, 38.0 mg | N1(CCCC1)CC1=CC=C(C=C1)C1CC(C1)CO | C16H23NO
reactant | 2-chloropyrimidine | 0.19 mmol, 21.3 mg | ClC1=NC=CC=N1 | C4H3ClN2
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.31 mmol, 1 M, 310 uL | C1CCOC1 | C4H8O
product | 2-[3-(4-Pyrrolidin-1-ylmethyl-phenyl)-cyclobutylmethoxy]-pyrimidine | N1(CCCC1)CC1=CC=C(C=C1)C1CC(C1)COC1=NC=CC=N1 | C20H25N3O
